US08008340B2
[3-(2-Amino-phenylsulfanyl)-1H-indol-2-yl]-piperidin-1-yl-methanone (Iab)
Treat 1H-indole-2-carboxylic acid 3 (X═H, 750 mg, 4.66 mmol) with piperidine (3.0 equiv., 1.4 mL, 13.98 mmol) as described in General Synthetic Procedure VIa to afford 1H-indol-2yl-piperidin-1-yl-methanone 8 (X═H, R4=piperidin-1-yl; 979 mg, 92%) as a white solid. Treat 1H-indol-2yl-piperidin-1-yl-methanone (116 mg, 0.51 mmol) with 2-aminophenyldisulfide (347 mg, 1.4 equiv.) as described in General Synthetic Procedure VIIa to afford the title compound Iab (103 mg, 29%) as a tan solid, m/z=352 (M+1).

reactant | 1H-indol-2yl-piperidin-1-yl-methanone | 0.51 mmol, 116 mg | N1C(=CC2=CC=CC=C12)C(=O)N1CCCCC1 | C14H16N2O
reactant | 2-aminophenyldisulfide | 347 mg, 1.4 equiv. | NC1=C(C=CC=C1)SSC1=C(C=CC=C1)N | C12H12N2S2
product | [3-(2-Amino-phenylsulfanyl)-1H-indol-2-yl]-piperidin-1-yl-methanone | NC1=C(C=CC=C1)SC1=C(NC2=CC=CC=C12)C(=O)N1CCCCC1 | C20H21N3OS
